US07572820B2
2-Ethyl-1-(2-propen-1-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 149 from 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and allyl bromide: 1H NMR (400 MHz, CDCl3) δ 7.49 (d, J=8.5 Hz, 1H), 7.42 (d, J=8.5 Hz, 1H), 6.60 (s, 1H), 5.93 (ddt, J=17.7, 10.4, 4.3 Hz, 1H), 5.18 (app. d, J=10.3 Hz, 1H), 4.80-4.73 (m, 3H), 2.78 (q, J=7.4 Hz, 2H), 1.40 (t, J=7.4 Hz, 3H).

reactant | 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C12H9F3N2
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 2-Ethyl-1-(2-propen-1-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC=C | C15H13F3N2
